US06660753B2
A mixture of the 3-(2-pyridyl)-5-(5-cyano-3-iodophenyl)-1,2,4-oxadiazole (140 mg, 0.374 mmol), Pd(PPh3)4 (10 mg, 0.009), and Cul (30 mg, 0.158 mmol) in N,N-dimethylformamide (3 mL) was treated with triethylamine (1 mL, 726 mg, 7 mmol). The reaction mixture was cooled to 0° C. and treated with propargyl alcohol (56 mg, 1 mmol). The mixture was stirred at ambient temperature 5 hours and then filtered through a short plug of silica gel, washing with ethyl acetate. The organic solution was concentrated in vacuo. Silica gel chromatography afforded 20 mg (18%) of 3-(2-pyridyl)-5-(5-cyano-3-[3-hydroxypropyn-1-yl]phenyl)-1,2,4-oxadiazole: 1H-NMR (MeOH-d4), δ ppm: 8.80 (d, 1H), 8.60 (s, 1H), 8.58 (s, 1H), 8.30 (d, 1H), 8.10 (m, 2H), 7.60 (m, 1H), 4.5 (s, 2H).

reactant | 3-(2-pyridyl)-5-(5-cyano-3-iodophenyl)-1,2,4-oxadiazole | 0.374 mmol, 140 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C#N)I | C14H7IN4O
reactant | triethylamine | 7 mmol, 1 mL, 726 mg | C(C)N(CC)CC | C6H15N
reactant | propargyl alcohol | 1 mmol, 56 mg | C(C#C)O | C3H4O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-pyridyl)-5-(5-cyano-3-[3-hydroxypropyn-1-yl]phenyl)-1,2,4-oxadiazole | 20 mg, 18% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C#N)C#CCO | C17H10N4O2
